US07781417B2
2-Azidoethyl p-toluenesulphonate
A solution of 2-bromoethanol (5.06 g; 40.4 mmol) and sodium azide (3.12 g; 48 mmol; 1.2 equiv) in water (15 ml) is stirred at 60° C. for 4 hours, extracted with dichloromethane (4×20 ml), dried over sodium sulphate, filtered and concentrated (it should be noted that 2-azidoethanol is too volatile to be dried under a vane pump vacuum). The oily crude product is dissolved in pyridine (20 ml) at 0° C. and tosyl chloride (7.2 g; 48 mmol; 1.2 equiv) is added in small portions. The solution is taken to ambient temperature and stirred overnight. Water (10 ml) is then added and the product is extracted with dichloromethane (3×20 ml), dried over sodium sulphate and concentrated under reduced pressure in order to produce the title compound (7 g; 29 mmol; 72%).

reactant | 2-bromoethanol | 40.4 mmol, 5.06 g | BrCCO | C2H5BrO
reactant | sodium azide | 48 mmol, 3.12 g, 1.2 equiv | [N-]=[N+]=[N-].[Na+]
reactant | tosyl chloride | 48 mmol, 7.2 g, 1.2 equiv | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | water | 15 ml | O | H2O
solvent | Water | 10 ml | O | H2O
product | 2-Azidoethyl p-toluenesulphonate | 29 mmol, 7 g, 72% | C1(=CC=C(C=C1)S(=O)(=O)OCCN=[N+]=[N-])C | C9H11N3O3S
